* C:\Users\alext\Documents\IC\IC_project\IC_ABAMP\AudioAmp.asc
* Generated by LTspice 24.1.9 for Windows.
Q2 N025 N038 N046 0 BC547B
Q3 N026 N033 N040 0 BC547B
Q4 N032 0 N044 0 BC547B
Q5 N037 0 N045 0 BC547B
Q6 N052 N050 VSS 0 BC547B
Q7 N050 N050 VSS 0 BC547B
Q9 N021 N017 N015 0 BC557B
R1 VCC N050 7.5k
R2 VCC N037 7.5K
R3 VCC N032 7.5K
R4 N016 N022 1
R5 N022 N035 1
R6 N025 N038 650
R7 N038 N046 650
R8 VCC N026 3k
R9 N040 VSS 1.5k
R12 VCC N015 4.1k
R13 N017 0 390
C2 N027 N026 47n
C3 N023 N022 47µ
R14 N023 0 16
V1 VCC 0 15
V2 VSS 0 -15
D1 N017 VCC BZX84C13VLY
R15 N044 N048 75
R16 N045 N048 75
V3 Sig 0 SINE(0 20m 10k)
X§M1 VCC 0 N016 BD139
X§M2 N035 0 VSS BD140
Q1 N031 Sig N042 0 BC547B
Q8 N036 0 N043 0 BC547B
Q10 N051 N049 VSS 0 BC547B
Q11 N049 N049 VSS 0 BC547B
R17 VCC N049 7.628k
R18 VCC N036 7.5k
R19 VCC N031 7.5k
R20 N042 N047 75
R21 N043 N047 75
R22 N047 N051 3.9k
Q12 N005 N007 N008 0 BC547B
R23 VCC N005 3k
R24 N009 VSS 3k
R25 VCC N003 10k
R26 N010 VSS 3.6k
R27 N048 N052 3.9K
C4 N007 N031 47µ
L3 N003 NC_01 1m
L4 NC_02 N010 1m
R30 N008 VSS 1.5k
C5 N009 N008 47µ
R28 N041 VSS 3k
C6 N041 N040 47n
C1 N033 N032 47n
R29 VCC N033 1.425Meg
R31 N021 N030 600
D2 N039 0 1N4148
D3 N030 N039 1N4148
Q13 N018 N013 N011 0 BC557B
R33 VCC N011 4.1k
R34 N013 0 390
D4 N013 VCC BZX84C13VLY
R35 N018 N025 600
R36 N046 VSS 4.7k
R10 VCC N007 1.425Meg
R11 NC_03 VSS 4.7Meg
C7 N006 N005 47µ
Q14 N024 N027 N034 0 BC547B
R32 VCC N027 175k
Q15 N012 N020 N028 0 BC547B
R37 N012 N020 650
R38 N020 N028 650
Q16 N004 N002 N001 0 BC557B
R39 VCC N001 4.1k
R40 N002 0 400
D5 N002 VCC BZX84C13VLY
R41 N004 NC_04 600
R42 N028 N054 4.5k
R43 N014 N019 1
R44 N019 N029 1
R45 N019 0 16
X§M3 VCC N012 N014 BD139
X§M4 N029 N028 VSS BD140
R46 N034 VSS 500
C9 N028 N034 47n
R47 VCC N012 4.8k
Q17 N054 N053 VSS 0 BC547B
Q18 N053 N053 VSS 0 BC547B
R48 VCC N053 10k
R49 VCC N024 540
.model D D
.lib C:\Users\alext\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\alext\AppData\Local\LTspice\lib\cmp\standard.bjt
.lib BC557B.lib
.lib BC547B.lib
.lib BD139.lib
.lib BD140.lib
.tran 0 10m 0.1m
.backanno
.end
